US04341787
A solution of 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole (1.71 g.) and thiazolidine-2-one-4-thione (1.33 g.) in methanol (30 ml.) was heated under reflux for one hour. Concentration, followed by successive recrystallisation of the residue from methanol, ethanol and aqueous ethanol afforded 4-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]thiazoline-2-one (1.0 g.) m.p. 195°-197°.

reactant | 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole | 1.71 g | CC=1N=CNC1CSCCN | C7H13N3S
reactant | thiazolidine-2-one-4-thione | 1.33 g | S1C(NC(C1)=S)=O | C3H3NOS2
solvent | methanol | 30 ml | CO | CH4O
product | 4-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]thiazoline-2-one | 1.0 g | CC=1N=CNC1CSCCNC1=NC(SC1)=O | C10H14N4OS2
